US04077968
A mixture of ethyl 2-(3-fluoro-4-aminophenyl)propionate (15 g) and 2-bromothiazole (11.7 g) is stirred at 150°-155° C for 15 minutes. The reaction mixture is dissolved in methylene chloride and the solution is washed with an aqueous solution of sodium hydrogen carbonate and dried. The solvent is evaporated. The residue is subjected to chromatography using alumina. From benzene eluate, ethyl 2-[3-fluoro-4-(N-thiazol-2-ylamino)phenyl]propionate (13.3 g) is obtained as oily substance boiling at 162°-164° C at 0.2 mmHg.

reactant | ethyl 2-(3-fluoro-4-aminophenyl)propionate | 15 g | FC=1C=C(C=CC1N)C(C(=O)OCC)C | C11H14FNO2
reactant | 2-bromothiazole | 11.7 g | BrC=1SC=CN1 | C3H2BrNS
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | ethyl 2-[3-fluoro-4-(N-thiazol-2-ylamino)phenyl]propionate | 13.3 g | FC=1C=C(C=CC1NC=1SC=CN1)C(C(=O)OCC)C | C14H15FN2O2S
